US09359300B2
Preparation of 3-chloro-2′-(2-(2-hydroxypropan-2-yl)pyrimidin-4-yl)-5′,6-dimethyl-4-((5-methylpyridin-3-yl)methoxy)-2H-[1,4′-bipyridin]-2-one
To the intermediate at Step F, a solution of 3-chloro-4-hydroxy-2′-(2-(2-hydroxypropan-2-yl)pyrimidin-4-yl)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one (386 mg, 1.0 mmol) in N,N-dimethylformamide (1.7 mL) was added 3-(bromomethyl)-5-methylpyridine (205 mg, 1.1 mmol), potassium carbonate (0.35 g, 2.52 mmol) and 18-crown-6 (7 mg). The slurry was stirred at ambient temperature for 18 hours. The reaction was partitioned between ethyl acetate and water. The organic layer was washed with water and brine and dried over magnesium sulfate. The solution was concentrated in vacuo to provide a brown oil. Normal phase chromatography (ethyl acetate/heptane) provided 351 mg of the alkylated product MS (M+H) 493.

reactant | 3-chloro-4-hydroxy-2′-(2-(2-hydroxypropan-2-yl)pyrimidin-4-yl)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one | 1.0 mmol, 386 mg | ClC=1C(N(C(=CC1O)C)C1=CC(=NC=C1C)C1=NC(=NC=C1)C(C)(C)O)=O | C19H19ClN4O3
reactant | 3-(bromomethyl)-5-methylpyridine | 1.1 mmol, 205 mg | BrCC=1C=NC=C(C1)C | C7H8BrN
reactant | potassium carbonate | 2.52 mmol, 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
solvent | N,N-dimethylformamide | 1.7 mL | CN(C=O)C | C3H7NO
catalyst | 18-crown-6 | 7 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 3-chloro-2′-(2-(2-hydroxypropan-2-yl)pyrimidin-4-yl)-5′,6-dimethyl-4-((5-methylpyridin-3-yl)methoxy)-2H-[1,4′-bipyridin]-2-one | 351 mg | ClC=1C(N(C(=CC1OCC=1C=NC=C(C1)C)C)C1=CC(=NC=C1C)C1=NC(=NC=C1)C(C)(C)O)=O | C26H26ClN5O3
